US07655666B2
To a solution of 4-acetyl-2-nitro-benzoic acid methyl ester (1 g, 4.48 mmol) in MeOH (5 mL) was added NaBH4. The reaction mixture was stirred at r.t. for 24 h (TLC control). To the reaction mixture was added water until the appearance of a white turbid solution and the reaction was stirred for 15 min at r.t. MeOH was removed under reduced pressure. The aqueous phase was extracted with EtOAc three times. The combined organic phases were dried (Na2SO4) and concentrated in vacuo to afford 4-(1-hydroxy-ethyl)-2-nitro-benzoic acid methyl ester (0.742 g, 73%) as a brown oil which was used in the next step without further purification. rt 4.74 min.

reactant | 4-acetyl-2-nitro-benzoic acid methyl ester | 4.48 mmol, 1 g | COC(C1=C(C=C(C=C1)C(C)=O)[N+](=O)[O-])=O | C10H9NO5
reactant | NaBH4 | [BH4-].[Na+]
reactant | water | O | H2O
solvent | MeOH | 5 mL | CO | CH4O
product | 4-(1-hydroxy-ethyl)-2-nitro-benzoic acid methyl ester | 0.742 g, 73% | COC(C1=C(C=C(C=C1)C(C)O)[N+](=O)[O-])=O | C10H11NO5
